US07238724B2
6-Fluoro-nicotinic acid tert-butyl ester
To a stirred and refluxed solution of 6-fluoro-nicotinic acid (0.092 g, 6.52 mmol) in benzene and 2-methyl-propan-2-ol (2:1, 15:7 mL) was added dropwise N,N-dimethylformamide di-tert-butyl acetal (8.2 mL, 29.6 mmol). The reaction mixture was refluxed for 3 hours, cooled to room temperature and partitioned between aqueous NaHCO3 and dichloromethane. The organic layer was washed with water and brine, dried (MgSO4), filtered, concentrated under reduced pressure and purified by flash chromatography with 15% to 30% ethyl acetate in hexane to provide the titled compound. MS (CI) m/z 197 (M+1)+; 1H NMR (300 MHz, CDCl3) δ ppm 8.82(d, 1H), 8.38(m, 1H), 6.98(d, 1H), 1.64 (s, 9H).

reactant | 6-fluoro-nicotinic acid | 6.52 mmol, 0.092 g | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 29.6 mmol, 8.2 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | 2-methyl-propan-2-ol | 7 mL | CC(C)(C)O | C4H10O
product | 6-Fluoro-nicotinic acid tert-butyl ester | C(C)(C)(C)OC(C1=CN=C(C=C1)F)=O | C10H12FNO2
